US05185360
5,10-Dihydro-10,10-dimethylindeno[1,2-b]indole
A solution of 3,3-dimethyl-1-indanone (20,0 q, 0,125 mol) prepared by the method described by R. Knorr et al., Leibig's Annalen, 1207 (1980) and phenylhydrazine (12.3 cm3, 0.125 mol) in glacial acetic acid (200 cm3), was heated to reflux. Concentrated hydrochloric acid (10 cm3) was added via the condenser, and boiling continued for a further 2 hours. The solution was allowed to cool, and then poured into water (500 cm3). The water was extracted with diethylether three times, the combined extracts were washed with brine and water, and dried (MgSO4). The solvent was removed, and petrol (60°-80° C.) added to the residue. The suspension was heated until boiling, The solid product was filtered off and the mother liquor concentrated. On cooling, more solid was obtained, and additional product separated out as the mother liquor was concentrated further. The solids were combined and crystallised from petrol to give the title compound. Yield: 10,2 g (35%). M.p. 160 ° C. 1H NMR: (CDCl3) δ: 1.60 (6H, s,), 7.1-7.7 (8H, m,), 8.16 (1H, s,).

reactant | 3,3-dimethyl-1-indanone | 0,125 mol | CC1(CC(C2=CC=CC=C12)=O)C | C11H12O
reactant | phenylhydrazine | 0.125 mol, 12.3 cm3 | C1(=CC=CC=C1)NN | C6H8N2
reactant | hydrochloric acid | 10 cm3 | Cl | ClH
reactant | water | 500 cm3 | O | H2O
solvent | acetic acid | 200 cm3 | C(C)(=O)O | C2H4O2
product | 5,10-Dihydro-10,10-dimethylindeno[1,2-b]indole | CC1(C2=CC=CC=C2C=2NC=3C=CC=CC3C21)C | C17H15N
